US07323475B2
c) (1,3-Dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester
A mixture of 20 ml of methanol, 6.27 g of (1,3-dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid (20 mmol) and 0.3 ml of concentrated sulfuric acid was refluxed with stirring for 18 h. Then 100 ml of concentrated aqueous sodium bicarbonate solution were added and the mixture was extracted with 100 ml of ethyl acetate. The organic phase was dried over MgSO4 and evaporated in vacuo. 6.30 g of the title compound were obtained; MS-(+)-ion: M+1=328.0; 1H NMR (CDCl3): δ=7.69 (d, 1H), 7.41 to 7.55 (m, 7H), 4.40 (s, 2H), 3.75 (s, 3H).

reactant | (1,3-dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid | 20 mmol, 6.27 g | O=C1N(C(C2=CC(=CC=C12)SC1=CC=CC=C1)=O)CC(=O)O | C16H11NO4S
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | (1,3-Dioxo-5-phenylsulfanyl-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester | 6.30 g | COC(CN1C(C2=CC=C(C=C2C1=O)SC1=CC=CC=C1)=O)=O | C17H13NO4S
